datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OCCCCCC)C1=CC=CC=C1.[O-:21]CC>>CCN([C:20]([O-:10])(OCCCCCC)[O:21]CC)C1=CC=CC=C1 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)[H])[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)[H])C1=CC=CC=C1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C([H])C(O)C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C(O)C([H])C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])C(C)=C(C)C(C)[OH+:10]1>>[OH:10]C(C)/C(C)=C(C)\C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)C1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10](C([H])C([H])[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C([H])[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C([H])[S]2.CC[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(C)[S]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)C1=CC=CC=C1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)[H])[H].[O-:21][H]>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21][H])[H])[H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21]C)CC>>CCCCCCC1C(O[C:20](=[O:10])N1C)CC.[O-:21]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[NH:10](C)C(C)/C(C)=C(C)\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)=C(C)C(C)[NH+:10]1(C) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])C1=CC=CC=C1)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([NH]CC)[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([NH]CC)[NH]C 21=20;20,10=10"
